data/oMe_Silver.jsonl
{"reaction_id": "NR-338_1-CC_2-c1ccc(C#N)cc1_3-C(C)C_4-CCC_5-c1ccc(C(=O)O)cc1","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(c1ccc(C#N)cc1)C(C)C)(CC)O[Si](CCC)(CCC)CCC","O=C(OO)c1ccc(C(=O)O)cc1"],"products_smiles": ["C(=O)(C(O[Si](CCC)(CCC)CCC)(c1ccc(C#N)cc1)C(C)C)CC"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](CCC)(CCC)CCC)(CC)C(c1ccc(C#N)cc1)(C(C)C)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](CCC)(CCC)CCC)(CC)C([O-])(c1ccc(C#N)cc1)C(C)C","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](CCC)(CCC)CCC)(c1ccc(C#N)cc1)C(C)C)CC","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
{"reaction_id": "NR-122_1-C(=O)OC_2-S(=O)(=O)c1ccccc1_3-C_4-C(C)C","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(C)C(C)C","C(C(=O)OC)S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C(C(=O)OC)S(=O)(=O)c1ccccc1)(C)C(C)C"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(C)C(C)C","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C(=O)OC)S(=O)(=O)c1ccccc1","rationale": "The basic nitrogen abstracts an acidic α-proton from C(=O)OC–S(=O)(=O)c1ccccc1 methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(C)C(C)C)(C(=O)OC)S(=O)(=O)c1ccccc1","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(C)C(C)C)(C(=O)OC)S(=O)(=O)c1ccccc1","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)OC)S(=O)(=O)c1ccccc1)(C)C(C)C","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
